US07479559B2
4-Bromo-1-iodobenzene (5 g, 17.7 mmol) in tetrahydrofuran (20 mL) at −40° C. was treated dropwise with isopropyl magnesium chloride (2 M solution in tetrahydrofuran, 23 mmol, 11.5 mL) and following addition was stirred 1 hour. Cyclohexanone (1.5 mL, 14.75 mmol) in tetrahydrofuran (5 mL) was added and the solution was allowed to slowly warm to room temperature over 3 hours. Saturated aqueous ammonium chloride solution was added and the mixture was then diluted with ethyl acetate. The aqueous and organic layers were separated and the organic layer was washed with water (1×) and brine (1×). The combined aqueous layers were extracted with ethyl acetate (3×10 mL), the combined organic layers were dried over magnesium sulfate, were filtered, and the solvent was removed in vacuo. The residue was purified by silica gel chromatography (20:1 hexanes-ethyl acetate) to afford 3 g (67% yield) of 1-(4-bromo-phenyl)-cyclohexanol. 13C NMR (100 MHz, CDCl3) □ 148.8, 131.4, 126.8, 120.8, 73.2, 38.9, 25.6, 22.3.

reactant | 4-Bromo-1-iodobenzene | 17.7 mmol, 5 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | isopropyl magnesium chloride | 23 mmol, 2 M, 11.5 mL | C(C)(C)[Mg]Cl
reactant | Cyclohexanone | 14.75 mmol, 1.5 mL | C1(CCCCC1)=O | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-bromo-phenyl)-cyclohexanol | 3 g, 67% yield | BrC1=CC=C(C=C1)C1(CCCCC1)O | C12H15BrO
